US05041514
There was added 9.4391 grams (0.03367 mols) of tetramethylbisphenol-A in increments of 4.72 grams, 2.36 grams and 2.35 grams at half hour intervals using 10 ml dry toluene to transfer each addition to 7.82 grams (0.03367 mols) of a 50% by weight toluene solution of bis(trimethylureido)dimethyl silane maintained under a nitrogen blanket at a temperature of 78° C. The final solution had about 27% by weight solids. The temperature of the resulting solution was raised to 120° C. one hour after the final tetramethylbisphenol-A addition to maintain the toluene solution under reflux . The reaction was monitored by GPC. The mixture was refluxed for an additional hour. A poly(tetramethylbisphenol-A monosiloxane) was obtained having a MWw of 17,800. After the removal of some toluene to increase the percent solids level, additional bisuriedo silane was added to provide a 7% excess. The reaction was left at reflux for two hours and an additional 2.35 millimoles of bisuriedo silane was added to provide a 14% excess silane. The reaction was continued for two hours diluted with toluene and then cooled slightly prior to precipitation in isopropanol. There was obtained a polymer having MWw of 56,500 and MWn of 32,900 by GPC.

reactant | tetramethylbisphenol-A | 0.03367 mols, 9.4391 grams | CC1=C(C(=C(C(=C1O)C)C)C(C)(C)C1=CC=C(C=C1)O)C | C19H24O2
reactant | bis(trimethylureido)dimethyl silane | CN(C(=O)N(C)C)[Si](C)(C)N(C(=O)N(C)C)C | C10H24N4O2Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | tetramethylbisphenol-A monosiloxane | [SiH4].CC1=C(C(=C(C(=C1O)C)C)C(C)(C)C1=CC=C(C=C1)O)C | InChI=1S/C19H24O2.H4Si/c1-11-13(3)18(21)14(4)12(2)17(11)19(5,6)15-7-9-16(20)10-8-15;/h7-10,20-21H,1-6H3;1H4
